2136-10-24 05:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   64 yo male with HTN, hyperlipidemia, RAS, transferred for IMI found to
   have RCA occlusion and hemodynamics c/w RV infarct.
   24 Hour Events:
   The patient remained on the dobutamine gtt overnight.
 SHEATH - START [**2136-10-23**] 05:28 PM
 CORDIS/INTRODUCER - START [**2136-10-23**] 05:33 PM
 PA CATHETER - START [**2136-10-23**] 05:33 PM
 SHEATH - STOP [**2136-10-23**] 08:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dobutamine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-24**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 60 (50 - 60) bpm
   BP: 153/88(94) {105/51(67) - 155/88(102)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    CVP: 18 (14 - 21)mmHg
   PAP: (35 mmHg) / (19 mmHg)
   CO/CI (Fick): (4.2 L/min) / (2 L/min/m2)
   SvO2: 59%
   Mixed Venous O2% Sat: 47 - 59
   Total In:
                                                                  1,153 mL
                                                                    179 mL
   PO:
   TF:
   IVF:
                                                                  1,153 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                    705 mL
                                                                    230 mL
   Urine:
                                                                    405 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.41/41/81.[**Numeric Identifier 508**]/29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   165 K/uL
   12.4 g/dL
   113 mg/dL
   1.1 mg/dL
   29 mEq/L
   3.6 mEq/L
   18 mg/dL
   103 mEq/L
   139 mEq/L
   34.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2136-10-23**]  05:53 PM
                             [**2136-10-23**]  07:34 PM
                             [**2136-10-24**]  12:06 AM
   WBC
   9.4
   Hct
   39
   37
   34.0
   Plt
   165
   Cr
   1.1
   TropT
   2.82
   Glucose
   113
   Other labs: CK / CKMB / Troponin-T:2368/148/2.82, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   64 yo male with HTN, hyperlipidemia, RAS, transferred for IMI found to
   have RCA occlusion and hemodynamics c/w RV infarct
   # CORONARIES:  Mild disease of LMCA and distal LAD with some diffuse
   disease of LCX.  RCA ostium could not be found, but given collaterals,
   likely subacute to chronic lesion. given time since onset of symptoms,
   thrombolysis unlikely to be beneficial.  Received significant dye load,
   unable to do intervention.
   - consider repeat angiography in a few days to re-examine RCA
   - ASA, statin, plavix
   - hold heparin gtt for now
   - hold b-blocker and ca blocker given RV infarct and sinus bradycardia
   # PUMP:  RHC with pressures c/w RV infarct physiology; echo also c/w RV
   infarct.  Preload dependant
   - no nitro, no lasix
   - rcvd IVFs; can bolus PRN for hypotension
   - cont dobutamine, attempt to wean as tolerated for goal SBP 120-150
   # RHYTHM:  sinus bradycardia; no AV conduction evidence on ECG
   - hold b-blocker and ca blocker for now
   - atropine at bedside given risk of sinus arrest and AV nodal
   dysfunction with RCA lesions
   - consider [**Hospital1 **] pads or internal pacing wires if significant
   bradycardia present
   # Hypertension: hold home meds for now
   - on dobutamine as above
   # Hyperlipidemia: increase pravastatin to 80 mg daily in acute MI
   setting
   # Renal Artery Stenosis: PCP ordered CTA to eval renal arteries given
   significant HTN difficult to control.  CTA with high grade stenosis of
   proximal left renal artery and less severe on proximal right
   - if considering repeat cath, can also do angiography of renal arteries
   and consider stenting
   - would avoid ACE in the setting of bilateral RAS
   FEN: NPO for now; cardiac diet in AM if no repeat angiography
   ACCESS: PIV's; femoral venous and arterial lines; will remove arterial
   line once ACT decreased
   PROPHYLAXIS:
   -DVT ppx with hep sc
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 05:30 PM
   20 Gauge - [**2136-10-23**] 05:30 PM
   Cordis/Introducer - [**2136-10-23**] 05:33 PM
   PA Catheter - [**2136-10-23**] 05:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-10-25 05:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Dobutamine was weaned off, femoral line pulled.  He had recurrent chest
   pain with inspiration, enzymes were negative.  He was nauseous, had
   several episodes of n/v received Zofran.  After catheter was removed,
   Got 250cc IVF due to low uop, not much response
   Temp max of 100.9, cultures were sent.   This am pt denied SOB, CP,
   n/v.  Denies SOB w/ exertion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-25**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.6
C (99.6
   HR: 62 (61 - 74) bpm
   BP: 133/75(89) {115/60(77) - 166/88(104)} mmHg; SBPs 120s
 160s
   RR: 26 (16 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 13 (10 - 20)mmHg
   PAP: (37 mmHg) / (18 mmHg)
   CO/CI (Fick): (3.5 L/min) / (1.7 L/min/m2)
   Mixed Venous O2% Sat: 54 - 57
   Total In:
                                                                  1,109 mL
                                                                     30 mL
   PO:
                                                                    420 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    689 mL
   Blood products:
   Total out:
                                                                    964 mL
                                                                    172 mL
   Urine:
                                                                    889 mL
                                                                    172 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                    145 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Middle-aged male lying in bed in NAD
   Eyes / Conjunctiva: Scleara anicteric
   Head, Ears, Nose, Throat:  OP clear
   Cardiovascular: RRR, no MRG
   Chest: Patient breathing comfortably, CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: warm and well-perfused, trace nonpitting edema present b/l
   Neurologic: Alert and oriented x3, neuro exam grossly nonfocal.
   Labs / Radiology
   156 K/uL
   11.5
   117 mg/dL
   1.2 mg/dL
   27
   4.0
   25 mg/dL
   101 mEq/L
   137 mEq/L
   31.5
   11.9 K/uL
        [image002.jpg]  CK
                             [**2136-10-23**]  05:53 PM
                             [**2136-10-23**]  07:34 PM
                             [**2136-10-24**]  12:06 AM
                             [**2136-10-24**]  06:38 AM
                             [**2136-10-24**]  01:07 PM
                             [**2136-10-24**]  09:10 PM
   WBC
   9.4
   10.7
   Hct
   39
   37
   34.0
   33.3
   Plt
   165
   157
   Cr
   1.1
   1.2
   1.2
   TropT
   2.82
   3.21
   3.56
   Glucose
   113
   117
   Other labs: CK / CKMB / Troponin-T:1205/34/3.7, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   .
   ECHO [**10-24**] - The left atrium is elongated. The right atrium is
   moderately dilated. There is mild symmetric left ventricular
   hypertrophy. There is mild regional left ventricular systolic
   dysfunction with hypokinesis of the basal to mid inferior and
   inferolateral segment. There is no ventricular septal defect. The right
   ventricular cavity is dilated with depressed free wall contractility.
   There is abnormal septal motion/position. The aortic arch is mildly
   dilated. There are three aortic valve leaflets. The aortic valve
   leaflets are mildly thickened. There is no aortic valve stenosis. The
   mitral valve leaflets are mildly thickened. Mild (1+) mitral
   regurgitation is seen. The left ventricular inflow pattern suggests
   impaired relaxation. The estimated pulmonary artery systolic pressure
   is normal. There is no pericardial effusion
   Micro:  BCx and UCx
 pending;
   Assessment and Plan
   64 yo male with HTN, hyperlipidemia, RAS, transferred for IMI found to
   have RCA occlusion and hemodynamics c/w RV infarct
   # CORONARIES:  Mild disease of LMCA and distal LAD with some diffuse
   disease of LCX.  RCA ostium could not be found, but given collaterals,
   likely subacute to chronic lesion. given time since onset of symptoms,
   thrombolysis unlikely to be beneficial.  Received significant dye load,
   unable to do intervention.   Will continue medical management.
   - Continue ASA, statin, and plavix
   - Holding b-blocker and ca blocker given RV infarct and sinus
   bradycardia, no changes today
   # PUMP:  RHC with pressures c/w RV infarct physiology; echo also c/w RV
   infarct.  Preload dependent.  RV function slightly improved overnight,
   LVEF 45-50%.  Likely requires higher Right sided pressures to fill LV.
   U/O decreasing suggestive of poor forward flow.
   - Will bolus 250 cc and start 100cc per hr NS.
   - Monitor U/O.
   - Hold ACE (in face of decreased U/O), BBK, and Lasix for now.
   # RHYTHM:  sinus bradycardia o/n resolves w/ awakening; no AV
   conduction anl evidence on ECG
   - Continue to hold AV nodal agents for now
   - atropine at bedside given risk of sinus arrest and AV nodal
   dysfunction with RCA lesions
   # Hypertension: Hold home meds for now;  BPs wnl. Dobutamine is being
   weaned off.
   # Hyperlipidemia: Continue increased pravastatin of 80 mg daily in
   acute MI setting
   # Renal Artery Stenosis: PCP ordered CTA to eval renal arteries given
   significant HTN difficult to control.  CTA with high grade stenosis of
   proximal left renal artery and less severe on proximal right  Not
   considering repeat cath for now, as pt RV improving.
   - Holding ACE in the setting of bilateral RAS
   FEN: Cardiac diet
   ACCESS: PIV's; femoral venous line
 can remove today as he no longer
   needs hemodynamic monitoring
   PROPHYLAXIS:
   -DVT ppx with hep sc
   -Pain managment with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: CCU service for now

2136-10-26 04:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   64 yo male with HTN, hyperlipidemia, RAS, transferred for IMI found to
   have RCA occlusion and hemodynamics c/w RV infarct.
   24 Hour Events:
   Gave pt. bolus 250 and started on IVF 100cc/hr, U/O picked up to ~
   50cc/hr, BPs stable.  CE trended down to 1590-> 1205., MB 50->34.  Gave
   another 500cc bolus w/ 150cc/hr NS.  U/O ranging 20-100/hr.  Pt.
   asymptomatic.  Repeated 250cc bolus o/n an continued 100cc/hr NS.  Pt.
   spiked to 100.6 o/n and defervesced w/o intervention.  Cx from [**10-25**]
   pending.
   This am the patient denies chest pain, SOB, dizziness, or other
   complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-10-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-26**] 04:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.5
C (97.7
   HR: 66 (62 - 74) bpm
   BP: 124/70(82) {121/62(78) - 159/84(101)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,370 mL
                                                                    843 mL
   PO:
                                                                    620 mL
             TF:
   IVF:
                                                                  1,750 mL
                                                                    843 mL
   Blood products:
   Total out:
                                                                    772 mL
                                                                    190 mL
   Urine:
                                                                    772 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,598 mL
                                                                    653 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Middle-aged male lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat:  OP clear
   Cardiovascular: RRR, no MRG
   Chest: Patient breathing comfortably, CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: warm and well-perfused, trace nonpitting edema present b/l
   Psych: Alert and oriented x3
   Labs / Radiology
   156 K/uL
   11.5 g/dL
   121 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.0 mEq/L
   25 mg/dL
   101 mEq/L
   137 mEq/L
   31.5 %
   11.9 K/uL
        [image002.jpg]
                             [**2136-10-23**]  05:53 PM
                             [**2136-10-23**]  07:34 PM
                             [**2136-10-24**]  12:06 AM
                             [**2136-10-24**]  06:38 AM
                             [**2136-10-24**]  01:07 PM
                             [**2136-10-24**]  09:10 PM
                             [**2136-10-25**]  05:28 AM
   WBC
   9.4
   10.7
   11.9
   Hct
   39
   37
   34.0
   33.3
   31.5
   Plt
   165
   157
   156
   Cr
   1.1
   1.2
   1.2
   1.2
   TropT
   2.82
   3.21
   3.56
   3.70
   Glucose
   113
   117
   121
   Other labs: CK / CKMB / Troponin-T:1205/34/3.70, Alk Phos / T
   Bili:/1.3, LDH:839 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   64 yo male with HTN, hyperlipidemia, RAS, transferred for IMI found to
   have RCA occlusion and hemodynamics c/w RV infarct
   # CORONARIES:  Mild disease of LMCA and distal LAD with some diffuse
   disease of LCX.  RCA ostium could not be found, but given collaterals,
   likely subacute to chronic lesion. given time since onset of symptoms,
   thrombolysis unlikely to be beneficial.  Received significant dye load,
   unable to do intervention.   Will continue medical management.
   - Continue ASA, statin, and plavix
   - Holding b-blocker and ca blocker given RV infarct and sinus
   bradycardia, no changes today
   - PT consult
   # PUMP:  RHC with pressures c/w RV infarct physiology; echo also c/w RV
   infarct.  Preload dependent.  RV function slightly improved overnight,
   LVEF 45-50%.  The patient was bolused yesterday with fluids with
   increasing urine output.  As the patient is now starting to have
   increased po intake will hold his IVF for now and follow his UOP.
   - Hold ACE (given renal artery stenosis) and Lasix for now until his
   urine output is stable off IVF
   - Hold B-blocker as above.
   # RHYTHM:  The patient has been in nl sinus rhythm in the 60
s on tele.
   - Continue to hold AV nodal agents for now
   - atropine at bedside given risk of sinus arrest and AV nodal
   dysfunction with RCA lesions
   # Hypertension: Hold home meds for now and continue to monitor.
   # Hyperlipidemia: Continue increased pravastatin of 80 mg daily in
   acute MI setting
   # Renal Artery Stenosis: PCP ordered CTA to eval renal arteries given
   significant HTN difficult to control.  CTA with high grade stenosis of
   proximal left renal artery and less severe on proximal right.  Not
   considering repeat cath for now, as pt RV improving.
   - Holding ACE in the setting of bilateral RAS
   FEN: Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with hep sc
   -Pain management with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: patient can be called out to the floor and likely be discharged
   home tomorrow pending PT eval..
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-10-23**] 05:30 PM
   20 Gauge - [**2136-10-23**] 05:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-10-27 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2136-10-26**] 09:03 AM
   The patient's IVFs were stopped and he was called out to the floor.  He
   has an appt made for him to follow up with Dr. [**Last Name (STitle) 4123**] on [**10-30**].  He
   will likely be discharged home t/m pending PT consult.  (we should fax
   the DC summ to Dr. [**Last Name (STitle) 4123**] at [**Telephone/Fax (1) 4124**]).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2136-10-26**] 04:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-10-27**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 58 (58 - 96) bpm
   BP: 139/75(91) {114/59(74) - 192/95(118)} mmHg
   RR: 21 (20 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
                  Total In:
                                                                  1,740 mL
                  PO:
                                                                    740 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    200 mL
   Urine:
                                                                    730 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,010 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Middle-aged male lying in bed in NAD
   Eyes / Conjunctiva: Sclera anicteric
   Head, Ears, Nose, Throat:  OP clear
   Cardiovascular: RRR, no MRG
   Chest: Patient breathing comfortably, CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: warm and well-perfused, trace nonpitting edema present b/l
   Psych: Alert and oriented x3
   Labs / Radiology
   144 K/uL
   10.5 g/dL
   107 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.3 mEq/L
   28 mg/dL
   104 mEq/L
   138 mEq/L
   29.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2136-10-23**]  05:53 PM
                             [**2136-10-23**]  07:34 PM
                             [**2136-10-24**]  12:06 AM
                             [**2136-10-24**]  06:38 AM
                             [**2136-10-24**]  01:07 PM
                             [**2136-10-24**]  09:10 PM
                             [**2136-10-25**]  05:28 AM
                             [**2136-10-26**]  06:15 AM
   WBC
   9.4
   10.7
   11.9
   9.9
   Hct
   39
   37
   34.0
   33.3
   31.5
   29.5
   Plt
   165
   157
   156
   144
   Cr
   1.1
   1.2
   1.2
   1.2
   1.2
   TropT
   2.82
   3.21
   3.56
   3.70
   Glucose
   113
   117
   121
   107
   Other labs: CK / CKMB / Troponin-T:1205/34/3.70, Alk Phos / T
   Bili:/1.3, LDH:839 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   64 yo male with HTN, hyperlipidemia, RAS, transferred for IMI found to
   have RCA occlusion and hemodynamics c/w RV infarct
   # CORONARIES:  Mild disease of LMCA and distal LAD with some diffuse
   disease of LCX.  RCA ostium could not be found, but given collaterals,
   likely subacute to chronic lesion. given time since onset of symptoms,
   thrombolysis unlikely to be beneficial.  Received significant dye load,
   unable to do intervention.   Will continue medical management.
   - Continue ASA, statin, and plavix
   - Holding b-blocker and ca blocker given RV infarct and sinus
   bradycardia, no changes today
   - PT consult
   # PUMP:  RHC with pressures c/w RV infarct physiology; echo also c/w RV
   infarct.  Preload dependent.  RV function slightly improved overnight,
   LVEF 45-50%.  The patient was bolused yesterday with fluids with
   increasing urine output.  As the patient is now starting to have
   increased po intake will hold his IVF for now and follow his UOP.
   - Hold ACE (given renal artery stenosis) and Lasix for now until his
   urine output is stable off IVF
   - Hold B-blocker as above.
   # RHYTHM:  The patient has been in nl sinus rhythm in the 60
s on tele.
   - Continue to hold AV nodal agents for now
   - atropine at bedside given risk of sinus arrest and AV nodal
   dysfunction with RCA lesions
   # Hypertension: Hold home meds for now and continue to monitor.
   # Hyperlipidemia: Continue increased pravastatin of 80 mg daily in
   acute MI setting
   # Renal Artery Stenosis: PCP ordered CTA to eval renal arteries given
   significant HTN difficult to control.  CTA with high grade stenosis of
   proximal left renal artery and less severe on proximal right.  Not
   considering repeat cath for now, as pt RV improving.
   - Holding ACE in the setting of bilateral RAS
   FEN: Cardiac diet
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with hep sc
   -Pain management with acetaminophen
   -Bowel regimen
   CODE: full
   DISPO: patient can be called out to the floor and likely be discharged
   home tomorrow pending PT eval..